US07893058B2
Synthesis of compound D as described in the general reaction scheme; 5,8-Dibromoimidazo[1,2-a]pyrazine.
Bromoacetaldehyde diethyl acetal (49 mL, 326 mmol) and 48% hydrobromic acid is heated to reflux for 1.5 h, then poured into propan-2-ol (600 mL) and quenched with NaHCO3. After filtering, 2,5-dibromo-3-aminopyrazine (41.34 g, 163 mmol) is added to the solution and heated at reflux overnight. The reaction is cooled and solvents removed in vacuo, followed by addition of aq. NaHCO3 and extraction with EtOAc. The organic phase is dried over MgSO4, filtered, and concentrated in vacuo to afford a brown solid. 1H NMR (250 MHz, CDCl3) δ(ppm)7.86 (1H, s), 7.93-7.94 (1H, d), 7.98-7.99 (1H,d); m/z (APCI) 278 (M+H)+; m.p 132-135° C.

reactant | Bromoacetaldehyde diethyl acetal | 326 mmol, 49 mL | C(C)OC(CBr)OCC | C6H13BrO2
reactant | hydrobromic acid | Br | BrH
reactant | 2,5-dibromo-3-aminopyrazine | 163 mmol, 41.34 g | BrC1=NC=C(N=C1N)Br | C4H3Br2N3
solvent | propan-2-ol | 600 mL | CC(C)O | C3H8O
product | 5,8-Dibromoimidazo[1,2-a]pyrazine | BrC1=CN=C(C=2N1C=CN2)Br | C6H3Br2N3
